US05808062
[3-[4-Hydroxy-2-oxo-3-[(2-phenylethyl)thio]-2H-pyran-6-yl]phenoxy] acetic acid, ethyl ester:
The title compound was prepared by Method A using ethyl (3-acetylphenoxy)acetate (2.00 g, 9.00 mmol), trimethyl silyltriflate (4.18 mL, 21.62 mmol), triethylamine (5.01 mL, 36.00 mmol), methylene chloride (23 mL), and diethyl ester of [(2-phenylethyl)thio]propanedioic acid (1.00 g, 3.37 mmol). m.p. 116°-119° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.22 (t, 3H), 2.77 (t, 2H), 3.05 (t, 2H), 4.89 (d, 2H), 6.80 (s, 1H), 7.20 (m, 7H), 7.44 (m, 2H).

reactant | ethyl (3-acetylphenoxy)acetate | 9.00 mmol, 2.00 g | C(C)(=O)C=1C=C(OCC(=O)OCC)C=CC1 | C12H14O4
reactant | triethylamine | 36.00 mmol, 5.01 mL | C(C)N(CC)CC | C6H15N
reactant | [(2-phenylethyl)thio]propanedioic acid | 3.37 mmol, 1.00 g | C1(=CC=CC=C1)CCSC(C(=O)O)C(=O)O | C11H12O4S
solvent | methylene chloride | 23 mL | C(Cl)Cl | CH2Cl2
product | [3-[4-Hydroxy-2-oxo-3-[(2-phenylethyl)thio]-2H-pyran-6-yl]phenoxy] acetic acid, ethyl ester | OC1=C(C(OC(=C1)C=1C=C(OCC(=O)OCC)C=CC1)=O)SCCC1=CC=CC=C1 | C23H22O6S
